US09260436B2
A mixture of 1.0 g of 2-amino-4-trifluromethylbenzamide, 813 mg of 2-ethylsulfanylbenzaldehyde, 764 mg of sodium bisulfite and 4 ml of DMA was stirred at 150° C. for 8 hours. A saturated aqueous sodium bicarbonate solution and water were added to the cooled reaction mixture, and the precipitated solid was filtered. The resulting solid was washed with water and n-hexane and then dried to obtain 1.49 g of 2-(2-ethylsulfanylphenyl)-7-trifluoromethyl-3H-quinazolin-4-one.

reactant | 2-amino-4-trifluromethylbenzamide | 1.0 g | NC1=C(C(=O)N)C=CC(=C1)C(F)(F)F | C8H7F3N2O
reactant | 2-ethylsulfanylbenzaldehyde | 813 mg | C(C)SC1=C(C=O)C=CC=C1 | C9H10OS
reactant | sodium bisulfite | 764 mg | S([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
product | 2-(2-ethylsulfanylphenyl)-7-trifluoromethyl-3H-quinazolin-4-one | 1.49 g | C(C)SC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(N1)=O)C(F)(F)F | C17H13F3N2OS
